US08084614B2
5-Bromo-4-chloro-2-fluoro-benzoic acid methyl ester (14.0 g, 52.4 mmol) was stirred vigorously in a mixture of THF (250 ml) and 1N NaOH (200 ml) for 16 hrs. The mixture was acidified to pH 3 with 6N HCl, concentrated partially to remove THF and then extracted with ethyl acetate. The organic phase was washed with water and brine and was dried over Na2SO4. The filtrate was concentrated to yield 5-bromo-4-chloro-2-fluoro-benzoic acid (13.3 g).

reactant | 5-Bromo-4-chloro-2-fluoro-benzoic acid methyl ester | 52.4 mmol, 14.0 g | COC(C1=C(C=C(C(=C1)Br)Cl)F)=O | C8H5BrClFO2
reactant | HCl | 6N | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 200 ml | [OH-].[Na+]
product | 5-bromo-4-chloro-2-fluoro-benzoic acid | 13.3 g | BrC=1C(=CC(=C(C(=O)O)C1)F)Cl | C7H3BrClFO2
